US05500453
A solution of 3.48 g of lithium (2-phenylethenyl)tris(p-fluorophenyl)borate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-chlorophenyl)(p-bromobenzyl)oxosulfonium hexafluorophosphatc in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 1.95 g of (p-chlorophenyl)(p-bromobenzyl)oxosulfonium(2-phenylethenyl)tris(p-fluorophenyl)borate.

reactant | lithium (2-phenylethenyl)tris(p-fluorophenyl)borate | 3.48 g | C1(=CC=CC=C1)C=C[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F.[Li+]
reactant | bis(p-chlorophenyl)(p-bromobenzyl)oxosulfonium | 5.00 g | ClC1=CC=C(C=C1)[S+](=O)(CC1=CC=C(C=C1)Br)C1=CC=C(C=C1)Cl
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (p-chlorophenyl)(p-bromobenzyl)oxosulfonium(2-phenylethenyl)tris(p-fluorophenyl)borate | 1.95 g | C1(=CC=CC=C1)C=C[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F.ClC1=CC=C(C=C1)[SH+](=O)CC1=CC=C(C=C1)Br | InChI=1S/C26H19BF3.C13H10BrClOS/c28-24-12-6-21(7-13-24)27(22-8-14-25(29)15-9-22,23-10-16-26(30)17-11-23)19-18-20-4-2-1-3-5-20;14-11-3-1-10(2-4-11)9-17(16)13-7-5-12(15)6-8-13/h1-19H;1-8H,9H2/q-1;/p+1
